US06610846B1
A solution of 3-cyclopentyl-2-(4-methoxymethanesulfonyl-phenyl)-propionic acid (31 mg, 0.09 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (67 mg, 0.15 mmol), and 2-aminothiazole (15 mg, 0.15 mmol) in methylene chloride (1 mL) at 25° C. was treated with triethylamine (0.04 mL, 0.29 mmol). The reaction was stirred at 25° C. for 20 h. At this time, the reaction was treated with a saturated aqueous sodium bicarbonate solution. The resulting organic layer was washed with a 1N aqueous hydrochloric acid solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methoxymethanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (23 mg, 59.2%) as a white solid: mp 157-160° C.; EI-HRMS m/e calcd for C19H24N2O4S2 (M+) 408.1178, found 408.1178.

reactant | 3-cyclopentyl-2-(4-methoxymethanesulfonyl-phenyl)-propionic acid | 0.09 mmol, 31 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)COC | C16H22O5S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.15 mmol, 67 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-aminothiazole | 0.15 mmol, 15 mg | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.29 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-methoxymethanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 23 mg, 59.2% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)COC | C19H24N2O4S2
